US05508385
After N-benzyloxycarbonyl-L-leucyl-L-argininal dibutylacetal hydrochloride (0.92 g, 1.60 mmol) was dissolved in methanol (100 ml), palladium black (1 g) was added to the solution. The mixture was stirred at room temperature for 2 hours in a hydrogen flow. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated to give 0.56 g (80%) of L-leucyl-L-argininal dibutylacetal hydrochloride as oil.

reactant | N-benzyloxycarbonyl-L-leucyl-L-argininal dibutylacetal hydrochloride | 1.60 mmol, 0.92 g | Cl.C(CCC)OC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CCCNC(N)=N)OCCCC
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium black | 1 g | [Pd] | Pd
product | L-leucyl-L-argininal dibutylacetal hydrochloride | 0.56 g, 80% | Cl.C(CCC)OC([C@@H](NC([C@@H](N)CC(C)C)=O)CCCNC(N)=N)OCCCC | InChI=1S/C20H43N5O3.ClH/c1-5-7-12-27-19(28-13-8-6-2)17(10-9-11-24-20(22)23)25-18(26)16(21)14-15(3)4;/h15-17,19H,5-14,21H2,1-4H3,(H,25,26)(H4,22,23,24);1H/t16-,17-;/m0./s1
